US05885986
A solution of 1.0 g (0.0029 mol) of 3-(4-chloromethyl-thiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]-benzodiazepin-6-one in 60 ml of tetrahydrofuran was treated with 7.9 ml (0.058 mol) of dipropylamine. After stirring at reflux for 16 hrs. the solution obtained was completely freed from the solvents. The residue was chromatographed over silica gel with ethyl acetate and the eluent and recrystallized from hot isopropyl ether. There was obtained 0.67 g (56%) of 3-(4-dipropylaminomethyl-thiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one as white crystals; m.p. 111°-112°.

reactant | 3-(4-chloromethyl-thiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]-benzodiazepin-6-one | 0.0029 mol, 1.0 g | ClCC=1N=C(SC1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C16H13ClN4OS
reactant | dipropylamine | 0.058 mol, 7.9 ml | C(CC)NCCC | C6H15N
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 3-(4-dipropylaminomethyl-thiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 0.67 g, 56% | C(CC)N(CCC)CC=1N=C(SC1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C22H27N5OS
